US07465811B2
2-Methyl-4-[[(trifluoromethyl)sulfonyl]oxy]benzeneacetic acid methyl ester
0.85 ml (6.11 mmol) of triethylamine is added to a solution of 0.55 g (3.06 mmol) of the methyl ester of 2-methyl-4-hydroxybenzeneacetic acid in 22 ml of DCM. The mixture is cooled to 0° C. and 0.62 ml (3.67 mmol) of trifluoromethanesulfonic anhydride is added. The reaction mixture is stirred at 0° C. for 1 hour and then diluted with 60 ml of DCM and washed with water. The organic phase is dried over magnesium sulfate and concentrated under reduced pressure. The crude product obtained is purified by chromatography on silica gel using a cyclohexane/ethyl acetate mixture (9/1; v/v) as the eluent to give 670 mg of the expected product in the form of a colorless oil (yield=70%).

reactant | triethylamine | 6.11 mmol, 0.85 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-4-hydroxybenzeneacetic acid | CC1=C(C=CC(=C1)O)CC(=O)O | C9H10O3
reactant | trifluoromethanesulfonic anhydride | 3.67 mmol, 0.62 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 22 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-4-[[(trifluoromethyl)sulfonyl]oxy]benzeneacetic acid methyl ester | 670 mg | COC(CC1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)C)=O | C11H11F3O5S
